US04965270
(a) 2,4-Dichloro-5-formamidopyrimidine
Acetic anhydride (12 ml) was added to a mixture of 5-amino-2,4-dichloropyrimidine (2.34 g, 14.4 mmol) and formic acid (30 ml) at 0° C. The mixture was stirred at 20° C. for 4 hours, evaporated to dryness and co-evaporated with toluene. The crystalline product was homogeneous on t.l.c. (chloroform-methanol, 15.1) and used without further purification. (2.74 g, 100%). IR: υmax (KBr) 3445, 3350, 3240, 1635, 1570, 1515, 1415 cm-1. 1H NMR δH [(CD3)2SO] 8.45 (1H,s,H.2), 9.40 (1H,s,CH), 10.40 (1H,br.s, NH).

reactant | Acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-amino-2,4-dichloropyrimidine | 14.4 mmol, 2.34 g | NC=1C(=NC(=NC1)Cl)Cl | C4H3Cl2N3
solvent | formic acid | 30 ml | C(=O)O | CH2O2
product | 2,4-Dichloro-5-formamidopyrimidine | ClC1=NC=C(C(=N1)Cl)NC=O | C5H3Cl2N3O
